US05124455
A) 3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxybenzaldehyde
To a magnetically-stirred solution of isovanillin (10 mmol, 1.52 g) in dry tetrahydrofuran (15 mL) at -10° C. is added endo-norborneol (10 mmol, 1.12 g) followed by triphenylphosphine (14 mmol, 3.67 g). After a few minutes, a solution of diethylazodicarboxylate (14 mmol, 2.44 g; 2.22 mL) in dry tetrahydrofuran (5 mL) is added dropwise at -10° C. and the resulting solution is allowed to warm to room temperature over 20 hours. The solvent is removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase is dried (Na2SO4) and concentrated in vacuo to afford the crude product. This material is purified by flash chromatography (SiO2 : 20% ethyl acetate/hexane) to give the title compound as a colorless oil (4.07 mmol, 1.00 g; 41%).

reactant | isovanillin | 10 mmol, 1.52 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | endo-norborneol | 10 mmol, 1.12 g | C1CC2CC1C[C@@H]2O | C7H12O
reactant | triphenylphosphine | 14 mmol, 3.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 14 mmol, 2.22 mL, 2.44 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxybenzaldehyde | 4.07 mmol, 1.00 g, 41% | C12C(CC(CC1)C2)OC=2C=C(C=O)C=CC2OC | C15H18O3
